US07723538B2
4-[3-(3,5-Dichloro-benzenesulfonylamino)-benzoylamino]-2-methoxy-benzoic acid, MS (ISP): m/e=493.2 (M−H), was prepared in analogy to example 17, steps A to D. Step C was performed using 3,5-dichloro-benzenesulfonyl chloride and yielded 4-[3-(3,5-dichloro-benzenesulfonylamino)-benzoylamino]-2-methoxy-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-[3-(3,5-Dichloro-benzenesulfonylamino)-benzoylamino]-2-methoxy-benzoic acid | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)NC=1C=C(C(=O)NC2=CC(=C(C(=O)O)C=C2)OC)C=CC1 | C21H16Cl2N2O6S
reactant | 3,5-dichloro-benzenesulfonyl chloride | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 4-[3-(3,5-dichloro-benzenesulfonylamino)-benzoylamino]-2-methoxy-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)NC(C1=CC(=CC=C1)NS(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)=O)OC)=O | C23H20Cl2N2O6S
